US07423030B2
46.2. Methyl 2-formyl-5-methoxy-3-trifluoromethanesulfonyloxybenzoate
A solution of 1 g (4.7 mmol) of methyl 2-formyl-3-hydroxy-5-methoxybenzoate in 20 mL of tetrahydrofuran is stirred at room temperature under nitrogen, followed by addition of 200 mg of sodium hydride as a 60% suspension in oil. The mixture is stirred for 30 minutes and 1.7 g (4.8 mmol) of N-phenyltrifluoromethanesulfonimide ((CF3SO2)2NC6H5) are then added portionwise. The reaction medium is stirred for 24 hours and then hydrolysed with aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phase is washed with water and with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The product, in the form of a brown oil, is used without purification in the following reaction.

reactant | methyl 2-formyl-3-hydroxy-5-methoxybenzoate | 4.7 mmol, 1 g | C(=O)C1=C(C(=O)OC)C=C(C=C1O)OC | C10H10O5
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | N-phenyltrifluoromethanesulfonimide | 4.8 mmol, 1.7 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Methyl 2-formyl-5-methoxy-3-trifluoromethanesulfonyloxybenzoate | C(=O)C1=C(C(=O)OC)C=C(C=C1OS(=O)(=O)C(F)(F)F)OC | C11H9F3O7S
